US06277778B1
2-(t-hexyldimethylsiloxy)indene
A solution of thexyldimethylchlorosilane (100.0 g, 559.3 mmol) and imidazole (38.08 g, 559.3 mmol) in DMF (350 mL) was reacted with 2-indanone (67.40 g, 510.0 mmol) and then stirred for two days at room temperature. The reaction mixture was treated with water (300 mL). and extracted with Et2O (3×200 mL). The combined organic phases were washed with water (2×200 mL) and dried over sodium sulfate. Evaporation of the solvents left a red oil. Distillation under reduced pressure gave 116.89 g (83.5%) of the title compound as a yellow oil (bp. 128-130° C./0.4 mbar). 1H NMR (CDCl3, δ): 7.24-7.10 (m, 3H); 7.00 (td, 3J=7.3 Hz, 4J=1.3 Hz, 1H); 5.74 (d, 4J=0.6 Hz, 1H); 3.28 (s, 2H); 1.70 (sept, 3J=6.8 Hz, 1H); 0.93 (s, 6H); 0.92 (d, 3J=6.8 Hz, 6H); 0.29 (s, 6H). 13C NMR (CDCl3, δ): 162.82; 145.71; 137.03; 126.86; 123.45; 122.73; 119.29; 106.92; 40.00; 34.49; 25.51; 20.51; 18.89; −2.26.

reactant | thexyldimethylchlorosilane | 559.3 mmol, 100.0 g | C(C)(C)(C(C)C)[Si](Cl)(C)C | C8H19ClSi
reactant | imidazole | 559.3 mmol, 38.08 g | N1C=NC=C1 | C3H4N2
reactant | 2-indanone | 510.0 mmol, 67.40 g | C1C(CC2=CC=CC=C12)=O | C9H8O
reactant | water | 300 mL | O | H2O
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | 2-(t-hexyldimethylsiloxy)indene | 116.89 g, 83.5% | C(C)(C)(CCC)[Si](OC=1CC2=CC=CC=C2C1)(C)C | C17H26OSi
